US07109229B2
A 60% dispersion of sodium hydride in mineral oil (1.40 g, 97 mmol) was washed with hexanes (3×10 mL, 1×5 mL), suspended in THF (50 mL) and CH3I added (1.64 mL, 26.3 mmol) followed by a solution of 7-bromoindole (4.06 g, 20.7 mmol) in THF (15 mL), with vigorous gas evolution. After 1 h at rt, the mixture was treated with additional CH3I (0.28 mL, 4.5 mmol) and stirred overnight. Saturated aq NaHCO3 was added and the mixture poured into EtOAc, which was separated, washed with saturated aq NaHCO3, dried (MgSO4) and concentrated to afford 1-methyl-7-bromoindole as an off-white semisolid which was used without further purification.

reactant | sodium hydride | [H-].[Na+]
reactant | CH3I | CI | CH3I
reactant | 7-bromoindole | 20.7 mmol, 4.06 g | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | CH3I | 4.5 mmol, 0.28 mL | CI | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-methyl-7-bromoindole | CN1C=CC2=CC=CC(=C12)Br | C9H8BrN
